US07018559B2
A. Synthesis of 6-methyl-3-hexoxymethylcyclohexene
A 500 mL round bottom flask equipped with a mechanical stirrer was charged with 18.9g (0.15 mol) 6-methyl-3-cyclohexenemethanol, and 130 mL of DMSO. Sodium hydride (4.22 g, 95% in purity; 0.167 mol) was slowly added to above mixture in ice bath over 25 min. After the above mixture was reacted at room temperature for 2 hrs. Hexyl bromide (27.3 g, 0.165 mol) was slowly added to the above mixture over 25 min. The reaction was carried at room temperature for 1 hr, then 70° C overnight. The reaction mixture was added to water (150 mL), and then extracted with chloroform (3×150 mL), washed with water (2×150 mL), dried with sodium sulfate. The solvent was evaporated and the residue distilled to give pure product.

reactant | 6-methyl-3-cyclohexenemethanol | 0.15 mol, 18.9g | CC1CC=CCC1CO | C8H14O
reactant | DMSO | 130 mL | CS(=O)C | C2H6OS
reactant | Sodium hydride | 4.22 g | [H-].[Na+]
reactant | Hexyl bromide | 0.165 mol, 27.3 g | C(CCCCC)Br | C6H13Br
solvent | water | 150 mL | O | H2O
product | 6-methyl-3-hexoxymethylcyclohexene | CC1CCC(C=C1)COCCCCCC | C14H26O
